US07763639B2
2-(1-PROPYLPIPERIDIN-4-YL)-6-(TRIFLUOROMETHOXY)PHENOL
Preparation according to Example 29: 4-[2-methoxy-3-(trifluoromethoxy)phenyl]-1-propylpiperidine (1.32 g, 4.16 mmol), pyridine hydrochloride (3 g). Yield: 0.7 g (55%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 203-205° C. MS m/z (relative intensity, 70 eV) 303 (M+, 11), 275 (15), 274 (bp), 145 (4), 117 (6).

reactant | 4-[2-methoxy-3-(trifluoromethoxy)phenyl]-1-propylpiperidine | 4.16 mmol, 1.32 g | COC1=C(C=CC=C1OC(F)(F)F)C1CCN(CC1)CCC | C16H22F3NO2
reactant | pyridine hydrochloride | 3 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
product | 2-(1-PROPYLPIPERIDIN-4-YL)-6-(TRIFLUOROMETHOXY)PHENOL | C(CC)N1CCC(CC1)C1=C(C(=CC=C1)OC(F)(F)F)O | C15H20F3NO2
